US08895545B2
a) 7-Bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine
A suspension of 7-bromo-1,3,4,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-2-one hydrochloride (1.16 g, 4.16 mmol) in THF (35 ml) was cooled in an ice bath and treated dropwise with LiAlH4 (8.4 mL of a 1.0 M solution in THF, 8.4 mmol). After stirring for 30 min, the ice bath was removed and the solution was allowed to warm to room temperature. After heating to reflux overnight, the mixture was cooled in an ice bath. The reaction was quenched sequentially with H2O (0.3 mL), 15% NaOH (0.3 mL) and H2O (0.9 mL). After 5 min, the ice bath was removed and the mixture was stirred at room temperature for 2.5 h. The mixture was filtered through Celite, and the filtrate was concentrated in vacuo to give a yellow syrup. Purification by flash column chromatography (silica gel, CH2Cl2/MeOH, 95:5 to 90:10) gave the title compound (0.42 g, 44%) as a white solid: 1NMR (300 MHz, CDCl3) δ8.03 (d, J=2.3 Hz, 1H), 7.44 (d, J=2.0 Hz, 1H), 4.96 (br s, 1H), 3.82 (s, 2H), 3.22-3.15 (m, 2H), 3.08-3.05 (m, 2H), 1.97 (br s, 1H); MS (ESI) m/e 228 (M+H)+.

reactant | 7-bromo-1,3,4,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-2-one hydrochloride | 4.16 mmol, 1.16 g | Cl.BrC1=CC2=C(NC(CNC2)=O)N=C1
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 7-Bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | 0.42 g, 44% | BrC1=CC2=C(NCCNC2)N=C1 | C8H10BrN3
